US06602897B2
30.4 g of N,N-dimethyl-2-chloro-3-nitroaniline is dissolved in about 300 ml of MeOH and hydrogenated at 20° C. and 5 bars pressure of hydrogen using Raney nickel as catalyst. The solvent is evaporated down and the product is purified by chromatography (silica gel, eluant: petroleum ether/ethyl acetate (3/1)). 12.8 g of 2-chloro-3-dimethylaminoaniline is obtained as a brown oil.

reactant | N,N-dimethyl-2-chloro-3-nitroaniline | 30.4 g | CN(C1=C(C(=CC=C1)[N+](=O)[O-])Cl)C | C8H9ClN2O2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | about 300 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 2-chloro-3-dimethylaminoaniline | 12.8 g | ClC1=C(N)C=CC=C1N(C)C | C8H11ClN2
